US04082851
By replacing in Example 289 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide with an equimolar amount of 4-benzyl-3-n-butoxy-5-sulfamyl-N,N-dimethylbenzamide and following the procedure described, (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)dimethylamine is obtained with a melting point of 110°-111° C. The material (IR, analysis) is identical with the material prepared as in Example 180.

reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | 4-benzyl-3-n-butoxy-5-sulfamyl-N,N-dimethylbenzamide | C(C1=CC=CC=C1)C1=C(C=C(C(=O)N(C)C)C=C1S(N)(=O)=O)OCCCC | C20H26N2O4S
product | (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)dimethylamine | C(C1=CC=CC=C1)C1=C(C=C(CN(C)C)C=C1S(N)(=O)=O)OCCCC | C20H28N2O3S
